US07649011B2
3,4,5-Trimethoxy-N-(2-methyl-3-phenyl-ally)-N-(2-piperidin-1-yl-ethyl)-benzamide
Experimental condition analogous to Example 13 were used with (2-Methyl-3-phenyl-allyl)-(2-piperidin-1-yl-ethyl)-amine, 0.5 g (1.9 mmol), 3,4,5-trimethoxy benzoic acid 0.49 g (2.3 mmol), 0.2 ml of triethylamine, O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate 1.2 g (3.8 mmol). The reaction yielded 102 mg of an off-white solid as an HCl salt. Yield: 12%.

reactant | (2-Methyl-3-phenyl-allyl)-(2-piperidin-1-yl-ethyl)-amine | CC(CNCCN1CCCCC1)=CC1=CC=CC=C1 | C17H26N2
reactant | 3,4,5-trimethoxy benzoic acid | 2.3 mmol, 0.49 g | COC=1C=C(C(=O)O)C=C(C1OC)OC | C10H12O5
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 3.8 mmol, 1.2 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | HCl | Cl | ClH
solvent | triethylamine | 0.2 ml | C(C)N(CC)CC | C6H15N
product | 3,4,5-Trimethoxy-N-(2-methyl-3-phenyl-ally)-N-(2-piperidin-1-yl-ethyl)-benzamide | 102 mg, Yield: 12% | COC=1C=C(C(=O)N(CCN2CCCCC2)CC(=CC2=CC=CC=C2)C)C=C(C1OC)OC | C27H36N2O4
